### PR TITLE
[Merged by Bors] - feat: the product of two sums in a nonarchimedean ring

### PR DESCRIPTION
**Pull request by trivial1711**
We prove that in a nonarchimedean ring, $$\sum_{(i, j) \in I \times J} a_i b_j = \left(\sum_{i \in I} a_i \right)\left(\sum_{j \in J} b_j\right),$$ provided that both sums on the right-hand side converge unconditionally.

Also tidy some redundant `()`s from previous PRs.

---

- [x] depends on: #11998
- [x] depends on: #12313
- [x] depends on: #12669

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 1]
```diff
@@ -67,3 +74,46 @@ theorem multipliable_iff_tendsto_cofinite_one [CompleteSpace G] (f : α → G) :
...
+  hf.mul hg (hf.summable.mul_of_complete_nonarchimedean hg.summable)
+
+/-- Let `R` be a nonarchimedean ring, let `f : α → R` be a function that sums to `a : R`,
+and let `g : β → R` be a function that sums to `b : R`. Then `fun (i : α × β) ↦ (f i.1) * (g i.2)`
+sums to `a * b`. -/
+theorem HasSum.mul_of_nonarchimedean {f : α → R} {g : β → R} {a b : R} (hf : HasSum f a)
+    (hg : HasSum g b) : HasSum (fun (i : α × β) ↦ (f i.1) * (g i.2)) (a * b) := by
+  rw [← hasSum_iff_hasSum_compl] at *
+  convert hf.mul_of_complete_nonarchimedean hg <;>
+  exact UniformSpace.Completion.coe_mul _ _
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:107]: Given how short these proofs are, perhaps `mul_of_complete_nonarchimedean` should just be inlined into this second theorem?

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 2]
```diff
@@ -67,3 +74,46 @@ theorem multipliable_iff_tendsto_cofinite_one [CompleteSpace G] (f : α → G) :
...
+
+/-- Let `R` be a nonarchimedean ring. If functions `f : α → R` and `g : β → R` are summable, then
+so is `fun (i : α × β) ↦ (f i.1) * (g i.2)`. -/
+theorem Summable.mul_of_nonarchimedean {f : α → R} {g : β → R} (hf : Summable f)
+    (hg : Summable g) : Summable (fun (i : α × β) ↦ (f i.1) * (g i.2)) :=
+  (hf.hasSum.mul_of_nonarchimedean hg.hasSum).summable
+
+theorem tsum_mul_tsum_of_nonarchimedean [T0Space R] {f : α → R} {g : β → R} (hf : Summable f)
+    (hg : Summable g) : ∑' (i : α × β), (f i.1) * (g i.2) = (∑' i, f i) * ∑' i, g i :=
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:116]: style nit:
```suggestion
    (hg : Summable g) : ∑' i : α × β, f i.1 * g i.2 = (∑' i, f i) * (∑' i, g i) :=
```

**Comment by trivial1711** [comment]
Thanks for the feedback.

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 3]
```diff
@@ -67,3 +74,37 @@ theorem multipliable_iff_tendsto_cofinite_one [CompleteSpace G] (f : α → G) :
...
+  exact tendsto_mul_cofinite_nhds_zero hf hg
+
+/-- Let `R` be a nonarchimedean ring, let `f : α → R` be a function that sums to `a : R`,
+and let `g : β → R` be a function that sums to `b : R`. Then `fun i : α × β ↦ f i.1 * g i.2`
+sums to `a * b`. -/
+theorem HasSum.mul_of_nonarchimedean {f : α → R} {g : β → R} {a b : R} (hf : HasSum f a)
+    (hg : HasSum g b) : HasSum (fun i : α × β ↦ f i.1 * g i.2) (a * b) := by
+  rw [← hasSum_iff_hasSum_compl] at *
+  convert hf.mul hg (hf.summable.mul_of_complete_nonarchimedean hg.summable) <;>
+  exact UniformSpace.Completion.coe_mul _ _
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:98]: Here's a `convert`-free spelling that is perhaps more maintainable:

```suggestion
  simp only [Function.comp_def, UniformSpace.Completion.toCompl_apply,
    UniformSpace.Completion.coe_mul]
  exact (hf.mul hg) (hf.summable.mul_of_complete_nonarchimedean hg.summable :)
```

Really the problem is that `hasSum_iff_hasSum_compl` is not stated using the simp-normal form.

**Review by eric-wieser — APPROVED** [review]
maintainer delegate

I haven't thought about the math much, but the lemmas look clean.

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean (hunk 3 above)
Comment (trivial1711) [reply Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean]: Thanks for the suggestion. I have applied it. However, I do not understand the last sentence of your message. I just tried simplifying the statement of `hasSum_iff_hasSum_compl` and the simplifier made no progress. Have I misunderstood what simp-normal form means? Do you mean that the statement should have the coercion arrows written out explicitly?

File: Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean [hunk 4]
```diff
@@ -67,3 +74,38 @@ theorem multipliable_iff_tendsto_cofinite_one [CompleteSpace G] (f : α → G) :
...
+  exact (hf.mul hg) (hf.summable.mul_of_complete_nonarchimedean hg.summable :)
+
+/-- Let `R` be a nonarchimedean ring. If functions `f : α → R` and `g : β → R` are summable, then
+so is `fun i : α × β ↦ f i.1 * g i.2`. -/
+theorem Summable.mul_of_nonarchimedean {f : α → R} {g : β → R} (hf : Summable f)
+    (hg : Summable g) : Summable (fun i : α × β ↦ f i.1 * g i.2) :=
+  (hf.hasSum.mul_of_nonarchimedean hg.hasSum).summable
+
+theorem tsum_mul_tsum_of_nonarchimedean [T0Space R] {f : α → R} {g : β → R} (hf : Summable f)
+    (hg : Summable g) : ∑' i : α × β, f i.1 * g i.2 = (∑' i, f i) * (∑' i, g i) :=
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean:108]: This name suggests that the two sides of the equality should be flipped.
Could you please do that?

Comment (trivial1711) [reply Mathlib/Topology/Algebra/InfiniteSum/Nonarchimedean.lean]: I have switched them; thank you for the feedback.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
